US08193199B2
3-((S)-1-(9H-Purin-6-ylamino)ethyl)-2-(pyridin-2-yl)quinoline-8-carbonitrile
A mixture of N-((S)-1-(8-chloro-2-(pyridin-2-yl)quinolin-3-yl)ethyl)-9H-purin-6-amine (80 mg, 0.2 mmol), Pd(PPh3)4 (23 mg, 0.1 eq) and Zn(CN)2 (117 mg, 5.0 eq) in DMF (5 mL) was purged with N2 for 5 min before heating to 130° C. After 3 h, LCMS showed formation of trace amount of 2. The reaction was then heated to 165° C. over night. After cool to rt, the reaction was filtered through Celite™ and purified by reverse HPLC (MeCN/H2O, 0.1% TFA) to give a white solid. 1H-NMR (400 Hz, DMSO-d6) δ 8.83 (s, 1H), 8.72 (s, 1H), 8.52 (s, 1H), 8.42-8.37 (m, 3H), 8.14 (d, J=8.0 Hz, 1H), 8.08 (t, J=8.0 Hz, 1H), 7.79 (t, J=8.0 Hz, 1H), 7.55 (t, J=8.0 Hz, 1H), 6.24 (s, 1H), 1.72 (d, J=8.0 Hz, 3H). Mass Spectrum (ESI) m/e=393 (M+1).

reactant | N-((S)-1-(8-chloro-2-(pyridin-2-yl)quinolin-3-yl)ethyl)-9H-purin-6-amine | 0.2 mmol, 80 mg | ClC=1C=CC=C2C=C(C(=NC12)C1=NC=CC=C1)[C@H](C)NC1=C2N=CNC2=NC=N1 | C21H16ClN7
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | 23 mg, 0.1 eq | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | Zn(CN)2 | 117 mg, 5.0 eq | [C-]#N.[C-]#N.[Zn+2]
product | 3-((S)-1-(9H-Purin-6-ylamino)ethyl)-2-(pyridin-2-yl)quinoline-8-carbonitrile | N1=CN=C2NC=NC2=C1N[C@@H](C)C=1C(=NC2=C(C=CC=C2C1)C#N)C1=NC=CC=C1 | C22H16N8
